US07696229B2
3. Synthesis of 5-bromo-8-nitro-N-methylisoquinolinium iodide
Into a 500 mL round bottom flask, was placed a solution of 5-bromo-8-nitroisoquinoline (25.59 g, 101.11 mmol) in DMF (200 mL). To the mixture was added iodomethane (71.8 g, 505.99 mmol). The resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at 40° C. A filtration was performed. The filter cake was washed 2 times with 250 mL of ether. This resulted in 33.33 g (83%) of 5-bromo-8-nitro-N-methylisoquinolinium iodide as a red solid.

reactant | 5-bromo-8-nitroisoquinoline | 101.11 mmol, 25.59 g | BrC1=C2C=CN=CC2=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2
reactant | iodomethane | 505.99 mmol, 71.8 g | IC | CH3I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5-bromo-8-nitro-N-methylisoquinolinium iodide | [I-].BrC1=C2C=C[N+](=CC2=C(C=C1)[N+](=O)[O-])C | InChI=1S/C10H8BrN2O2.HI/c1-12-5-4-7-8(6-12)10(13(14)15)3-2-9(7)11;/h2-6H,1H3;1H/q+1;/p-1
